US05371226
12.5 g of potassium tert-butoxide are added at 20° to a solution of 20.3g or 7-ethyl-1,2,3,4-tetrahydro-4,4-dimethyl-2-oxoquinoline [mip. 120°; obtainable by reaction of m-ethylaniline with 3,3-dimethylacryloyl chloride in toluene/methylene chloride to give N-(3,3-dimethylacryloyl)-m-ethylaniline (m.p. 90°) and cyclisation with AlCl3 at 60°-100°]in 700 ml of DMF. The mixure is stirred for 45 minutes, a solution of 30.5g of 4-bromomethyl-2'-cyanobiphenyl in 300 ml of DMF is then added dropwise and the mixture is stirred overnight, evaporated and worked up in conventional manner to give 1-(2'-cyanobiphenyl-4-ylmethyl)-7-ethyl-1,2,3,4-tetrahydro-4,4-dimethyl-2-oxoquinol ine, m.p. 171°-172°.

reactant | potassium tert-butoxide | 12.5 g | CC(C)([O-])C.[K+]
reactant | 7-ethyl-1,2,3,4-tetrahydro-4,4-dimethyl-2-oxoquinoline | C(C)C1=CC=C2C(CC(NC2=C1)=O)(C)C | C13H17NO
reactant | 4-bromomethyl-2'-cyanobiphenyl | 30.5g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
solvent | DMF | 700 ml | CN(C)C=O | C3H7NO
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 1-(2'-cyanobiphenyl-4-ylmethyl)-7-ethyl-1,2,3,4-tetrahydro-4,4-dimethyl-2-oxoquinol ine | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(CC(C2=CC=C(C=C12)CC)(C)C)=O | C27H26N2O
